US05476846
a) Trans-N-[2-(4-acetylphenyl)cyclohexyl]-4-chlorobenzenesulfonamide
To a mixture maintained at 0° C. of 4.0 g (12 mmoles) of trans-4-chloro-N-(2-phenylcyclohexyl)-benzenesulfonamide (prepared according to Das P. C. et al., Indian J. Chem. (1974), 12, 1139-40), 80 ml of anhydrous dichloromethane and 2.4 g (31 mmoles) of acetyl chloride, 5.3 g (40 mmoles) of aluminum chloride are added by fractions. After 4 hours at 0° C., the reaction mixture is thrown onto an ice-HCl mixture before being extracted with dichloromethane. The organic phase is washed with water to neutrality, dried over Na2SO4 and concentrated. The residue is purified by chromatography on a column of silica (eluant: hexane-ethyl acetate 4/1) to give 2 g of a colorless oil (yield: 42.5%).

reactant | trans-4-chloro-N-(2-phenylcyclohexyl)-benzenesulfonamide | 12 mmoles, 4.0 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)C1=CC=CC=C1 | C18H20ClNO2S
reactant | acetyl chloride | 31 mmoles, 2.4 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 40 mmoles, 5.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | Trans-N-[2-(4-acetylphenyl)cyclohexyl]-4-chlorobenzenesulfonamide | 2 g, yield: 42.5% | C(C)(=O)C1=CC=C(C=C1)[C@H]1[C@@H](CCCC1)NS(=O)(=O)C1=CC=C(C=C1)Cl | C20H22ClNO3S
